US06121285
8-Amino-10-[4-(R)-(1-aminocyclopropyl)-3-(S)-fluoro-1-pyrrolidinyl]-9-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid
4-(R)-(1-tert-Butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine (900 mg, 2.58 mmol) was dissolved in ethanol (20 ml). After adding a 10% palladium-carbon catalyst (moisture content: 50.2%, 900 mg), the mixture was stirred under a hydrogen atmosphere for 4 hours. After filtering off the catalyst through celite (washed with ethanol), the filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in dimethyl sulfoxide (20 ml) and 8-amino-9,10-difluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (593 mg, 2.00 mmol) and triethylamine (3 ml) were added thereto. Then the mixture was stirred in a nitrogen atmosphere in an oil bath at 100° C. for 25 hours. After allowing it to cool, dimethyl sulfoxide was evaporated under reduced pressure and the residue was dissolved in chloroform (100 ml.) and washed with a 10% aqueous solution of citric acid (80 ml). The organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under reduced pressure. Under ice cooling, concentrated hydrochloric acid (10 ml) was dropped into the residue followed by stirring at room temperature for 30 minutes. After adding 1 N hydrochloric acid (30 ml), the liquid reaction mixture was washed with chloroform (50 ml×4) and its pH value was adjusted to 12.0 with an aqueous solution of sodium hydroxide. The pH value of this aqueous solution was adjusted to 7.4 with 1 N hydrochloric acid followed by extraction with chloroform (500 ml×3). The combined organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was recrystallized from ethanol and dried under reduced pressure to obtain 640 mg (76.0%) of the title compound as a yellow powder.

reactant | 4-(R)-(1-tert-Butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine | 2.58 mmol, 900 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@@H]1[C@@H](CN(C1)[C@@H](C)C1=CC=CC=C1)F | C20H29FN2O2
reactant | 8-amino-9,10-difluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 2.00 mmol, 593 mg | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)O)F)F | C13H10F2N2O4
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 900 mg | [C].[Pd]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 8-Amino-10-[4-(R)-(1-aminocyclopropyl)-3-(S)-fluoro-1-pyrrolidinyl]-9-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 640 mg, 76.0% | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)O)N1C[C@H]([C@H](C1)C1(CC1)N)F)F | C20H22F2N4O4
